US07829585B2
2,6-Diamino-N-(6-hydroxy-benzofuran-2-ylmethyl)-nicotinamide
To a trifluoroacetic acid (5 mL) solution of 2,6-diamino-N-(6-benzyloxy-benzofuran-2-ylmethyl)-nicotinamide (238 mg, 612 μmol) described in Example 1 was added thioanisole (287 μL, 2.45 mmol) at 0° C., which was stirred at room temperature for 2 hours. To the reaction solution were added sodium bicarbonate and water at 0° C., followed by extraction with ethyl acetate. After washing the organic layer with sat. NaCl, the organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under a reduced pressure and the residue was purified by NH silica gel column chromatography (ethyl acetate:methanol=10:1) to obtain the title compound (101 mg, 55%) as a pale brown solid.

reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2,6-diamino-N-(6-benzyloxy-benzofuran-2-ylmethyl)-nicotinamide | 612 μmol, 238 mg | NC1=C(C(=O)NCC=2OC3=C(C2)C=CC(=C3)OCC3=CC=CC=C3)C=CC(=N1)N | C22H20N4O3
reactant | thioanisole | 2.45 mmol, 287 μL | C1(=CC=CC=C1)SC | C7H8S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 2,6-Diamino-N-(6-hydroxy-benzofuran-2-ylmethyl)-nicotinamide | 101 mg, 55% | NC1=C(C(=O)NCC=2OC3=C(C2)C=CC(=C3)O)C=CC(=N1)N | C15H14N4O3
